US07834019B2
Production of N,N-dimethyl-2-[4-(4-{[1-(6-methylpyridin-2-yl)-3-oxo-2-(2-propynyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-6-yl]amino}phenyl)piperazin-1-yl]acetamide
34.3 mg of the entitled compound was obtained as a yellow solid in the same manner as in Example 113-1 to 113-2, for which, however, 2-allyl-1-(6-methylpyridin-2-yl)-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one was used in place of 2-allyl-1-[6-(1-hydroxy-1-methylethyl)-2-pyridinyl]-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one used in Example 113-1, and 2-[4-(4-aminophenyl)piperazin-1-yl]-N,N-dimethylacetamide was used in place of 4-(4-methylpiperazin-1-yl)aniline used in Example 113-2.

reactant | 2-allyl-1-(6-methylpyridin-2-yl)-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | C(C=C)N1N(C2=NC(=NC=C2C1=O)SC)C1=NC(=CC=C1)C | C15H15N5OS
reactant | 2-[4-(4-aminophenyl)piperazin-1-yl]-N,N-dimethylacetamide | NC1=CC=C(C=C1)N1CCN(CC1)CC(=O)N(C)C | C14H22N4O
product | N,N-dimethyl-2-[4-(4-{[1-(6-methylpyridin-2-yl)-3-oxo-2-(2-propynyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-6-yl]amino}phenyl)piperazin-1-yl]acetamide | CN(C(CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(N(C2=O)CC#C)C2=NC(=CC=C2)C)=O)C | C28H31N9O2
